US07700638B2
7-(3-Acetamidophenyl)-1-phenyl-5-trifluoromethylbenzimidazole
A solution of 7-(3-aminophenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.32 g, 0.9 mmol) in acetic anhydride (3 ml) was stirred at ambient temperature for one hour. Saturated, aqueous sodium carbonate was added and the resultant mixture was extracted with ethyl acetate. This organic extract was washed with water and brine, successively, dried over magnesium sulphate, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with a mixture of dichloromethane and methanol (97:3, v/v) to afford the desired product (0.27 g, 76%) m/z, 396.1 (M+H)+.

reactant | 7-(3-aminophenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.9 mmol, 0.32 g | NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C20H14F3N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(3-Acetamidophenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 0.27 g, 76% | C(C)(=O)NC=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H16F3N3O
